US05817599
Synthesis of N-(2-morpholinoethyl)-11-decylthioundecanamide
2.6 Grams of N-(2-aminoethyl)morpholine and 30 ml of N,N-dimethylacetamide were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred with ice cooling. To the resulting solution was slowly added dropwise 7.5 g of 11-decylthioundecanoic acid chloride. After completion of the addition, the temperature of the solution was returned to room temperature, followed by further stirring for 2 hours. The reaction mixture was diluted with 300 ml of benzene, and washed with 5% aqueous sodium bicarbonate solution, pure water and saturated aqueous sodium chloride solution in succession. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain a crystal. The crystal was recrystallized from n-hexane to obtain 7.3 g of the desired product. m.p. 80° C.

reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
reactant | 11-decylthioundecanoic acid chloride | 7.5 g | C(CCCCCCCCC)CCCCCCCCCCC(=S)Cl | C21H41ClS
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | N-(2-morpholinoethyl)-11-decylthioundecanamide | 7.3 g | O1CCN(CC1)CCNC(CCCCCCCCCCCCCCCCCCCC)=S | C27H54N2OS
